US06548522B1
(RS)-Phenyl-pyridin-2-yl-acetamide (0.340 g, 1.60 mmol) was dissolved in 5 ml of a saturated solution of HCl/methanol and refluxed for 6 h in a closed vessel. The mixture is poured on 25 g of ice, the pH is adjusted to 8-9 by cautious addition of 28% sodium hydroxide solution keeping the temperature below 10° C. and the product is extracted with ethyl acetate/water. After drying (MgSO4) and concentration, the crude material is purified by flash chromatography on silicagel using 1:4 mixture of ethyl acetate and hexane as eluant to yield 0.204 g (0.939 mmol, 59%) of (RS)-phenyl-pyridin-2-yl-acetic acid methyl ester as a white solid, m.p. 74° C. and MS: m/e=228.2 (M+H+).

reactant | (RS)-Phenyl-pyridin-2-yl-acetamide | 1.60 mmol, 0.340 g | C1(=CC=CC=C1)C(C(=O)N)C1=NC=CC=C1 | C13H12N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | HCl methanol | Cl.CO
product | (RS)-phenyl-pyridin-2-yl-acetic acid methyl ester | 0.939 mmol, 0.204 g, 59% | COC(C(C1=NC=CC=C1)C1=CC=CC=C1)=O | C14H13NO2
